US09108957B2
To a solution of (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane (1.48 g, 4.11 mmol) in N,N-dimethylacetamide (6.9 ml) was added sodium carbonate (0.436 g, 4.11 mmol), palladium acetate (18.4 mg, 0.082 mmol), 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (78.4 mg, 0.164 mmol), potassium hexacyanoferrate(II) trihydrate (0.521 g, 1.23 mmol) at room temperature under nitrogen atmosphere. The mixture was heated to 120° C. Additional palladium acetate (18.4 mg, 0.082 mmol) and 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl (78.4 mg, 0.164 mmol) was added twice to the reaction mixture every one hour. After one hour from last addition of the catalyst, the mixture was filtered through a pad of Celite to remove solid materials and partitioned between water and ethyl acetate. The organic layer was washed with water, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant: hexane/ethyl acetate=7/3) to afford (S)-4-(4-((R)-1-phenylethyl)-[1,4]oxazepan-6-yl)benzonitrile as pale yellow solid (662 mg, 53%).

reactant | (S)-6-(4-bromophenyl)-4-((R)-1-phenylethyl)-[1,4]oxazepane | 4.11 mmol, 1.48 g | BrC1=CC=C(C=C1)[C@H]1CN(CCOC1)[C@H](C)C1=CC=CC=C1 | C19H22BrNO
reactant | sodium carbonate | 4.11 mmol, 0.436 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | N,N-dimethylacetamide | 6.9 ml | CN(C(C)=O)C | C4H9NO
catalyst | palladium acetate | 0.082 mmol, 18.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | potassium hexacyanoferrate(II) trihydrate | 1.23 mmol, 0.521 g | [C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.[C-]#N.O.O.O.[K+].[K+].[K+].[K+].[Fe+2]
catalyst | palladium acetate | 0.082 mmol, 18.4 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.164 mmol, 78.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
catalyst | 2-dicyclohexylphosphino-2′,4′,6′-triisopropylbiphenyl | 0.164 mmol, 78.4 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
product | (S)-4-(4-((R)-1-phenylethyl)-[1,4]oxazepan-6-yl)benzonitrile | 662 mg, 53% | C1(=CC=CC=C1)[C@@H](C)N1CCOC[C@H](C1)C1=CC=C(C#N)C=C1 | C20H22N2O
